US09375012B2
Oxalyl chloride (1.23 ml, 14.24 mmol) was added dropwise to a solution of 5-fluoro 2-trifluoromethyl benzoic acid (1 gm, 4.81 mmol) in HPLC grade DCM (15 ml), containing DMAP. The reaction mixture was heated to 50° C. for 40 min. The reaction mass was cooled to room temperature and solvent evaporated to dryness under a nitrogen atmosphere to get crude 5-fluoro 2-trifluoromethyl benzoyl chloride.

reactant | Oxalyl chloride | 14.24 mmol, 1.23 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-fluoro 2-trifluoromethyl benzoic acid | 4.81 mmol, 1 gm | FC=1C=CC(=C(C(=O)O)C1)C(F)(F)F | C8H4F4O2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 5-fluoro 2-trifluoromethyl benzoyl chloride | FC=1C=CC(=C(C(=O)Cl)C1)C(F)(F)F | C8H3ClF4O
